US06479487B1
1-Butyl-4-piperidone is prepared from 4-piperidone and 1-chlorobutane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
solvent | 1-chlorobutane | ClCCCC | C4H9Cl
product | 1-Butyl-4-piperidone | C(CCC)N1CCC(CC1)=O | C9H17NO
